US03940411
Preparation of 2-(2-amino-1,3,4-thiadiazol-5-yl)-1-methyl-5-nitroimidazole
In a similar manner, acid treatment of the mixture of 1-(1-methyl-5-nitro-2-imidazolecarboximidoyl)-3-thiosemicarbazide and ethyl 1-methyl-5-nitro-2-imidazolecarboxylate thiosemicarbazone, gives the title compound.

reactant | 1-(1-methyl-5-nitro-2-imidazolecarboximidoyl)-3-thiosemicarbazide | CN1C(=NC=C1[N+](=O)[O-])C(=N)NNC(=S)N | C6H9N7O2S
reactant | ethyl 1-methyl-5-nitro-2-imidazolecarboxylate thiosemicarbazone | CN1C(=NC=C1[N+](=O)[O-])C(OCC)=NNC(=S)N | C8H12N6O3S
product | 2-(2-amino-1,3,4-thiadiazol-5-yl)-1-methyl-5-nitroimidazole | NC=1SC(=NN1)C=1N(C(=CN1)[N+](=O)[O-])C | C6H6N6O2S
